US06426345B1
To a solution of 2-[2-succinimidooxycarbonylethyl]-4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (0.28 g) in dioxane was added a solution of dimethylamine hydrochloride (81 mg) in water and triethylamine (101 mg). The mixture was stirred for 18 hours, diluted with ethyl acetate, washed with water. After removal of the solvents, crude residue was crystallized from ethanol to give 2-[2-(N,N-dimethylcarbamoyl)ethyl]-3-oxo-4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine.

reactant | 2-[2-succinimidooxycarbonylethyl]-4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 0.28 g | C1(CCC(N1OC(=O)CCC1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)NC1=C(C=CC=C1)OC)N=CC=C2)=O)=O | C28H24N6O7
reactant | dimethylamine hydrochloride | 81 mg | Cl.CNC
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | triethylamine | 101 mg | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(N,N-dimethylcarbamoyl)ethyl]-3-oxo-4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine | CN(C(=O)CCC1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)NC1=C(C=CC=C1)OC)N=CC=C2)C | C26H26N6O4
